US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/Ethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate
To ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (0.5 ml of a solution containing 1 mg/ml in a phosphate or citrate-phosphate 0.1 M buffer) was added the enzyme (amount indicated below). The reaction mixture was shaken at room temperature and analysed at different times. The reaction mixture was analysed by the gradient HPLC method 1 and by chiral HPLC.

reactant | ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | citrate phosphate | 0.1 M | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].P(=O)([O-])([O-])[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid Ethyl (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCC)CC1=CC=C(C=C1)O | InChI=1S/C13H18O4.C11H14O4/c1-3-16-12(13(15)17-4-2)9-10-5-7-11(14)8-6-10;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,12,14H,3-4,9H2,1-2H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t12-;10-/m10/s1
